US04558155
2-[2-(3,5-Dichlorophenoxy)ethyl]-1H-isoindole-1,3(2H)-dione
A mixture of 101.88 g (0.38 mole) of 2-bromoethyl-3,5-dichlorophenyl ether and b 70.3 g (0.38 mole) of potassium phthalimide in 800 ml of dimethylformamide was stirred overnight at 85° C. The reaction mixture was filtered and dimethylformamide removed from the filtrate in a rotary evaporator to yield a white solid. The solid was triturated with diethyl ether and the mixture filtered. The solid was dried in vacuo. Recrystallized from methylene chloride-hexane, the product melted at 133°-136° C. Yield overall was 41.7%.

reactant | 2-bromoethyl-3,5-dichlorophenyl ether | 0.38 mole, 101.88 g | BrCCC1=C(C=C(C=C1Cl)Cl)OC1=C(C(=CC(=C1)Cl)Cl)CCBr | C16H12Br2Cl4O
reactant | potassium phthalimide | 0.38 mole, 70.3 g | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
solvent | dimethylformamide | 800 ml | CN(C=O)C | C3H7NO
product | 2-[2-(3,5-Dichlorophenoxy)ethyl]-1H-isoindole-1,3(2H)-dione | ClC=1C=C(OCCN2C(C3=CC=CC=C3C2=O)=O)C=C(C1)Cl | C16H11Cl2NO3
